US07132438B2
To a solution of 4-cyclohexylamino-3-nitrobenzaldehyde (10.3 g, 41.3 mmol) in dichloroethane (50 mL) was added piperidine (4.10 g, 48.2 mmol) followed by acetic acid (0.20 mL, cat.). The reaction mixture was heated to 60° C. and stirred for 1 hr, then cooled to room temperature and sodium triacetoxyborohydride (10.5 g, 49.5 mmol) was added in a single portion. After stirring for 18 hr at room temperature, the reaction was quenched by the addition of sodium bicarbonate (sat., aq., 100 mL), and the mixture was extracted with ethyl acetate (3×100 mL). The combined organic extracts were then evaporated to afford crude N-cyclohexyl-2-nitro-4-(1-piperidinylmethyl) aniline as a yellow oil (15.4 g crude yield).

reactant | 4-cyclohexylamino-3-nitrobenzaldehyde | 41.3 mmol, 10.3 g | C1(CCCCC1)NC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C13H16N2O3
reactant | piperidine | 48.2 mmol, 4.10 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.20 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 49.5 mmol, 10.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | N-cyclohexyl-2-nitro-4-(1-piperidinylmethyl) aniline | C1(CCCCC1)NC1=C(C=C(C=C1)CN1CCCCC1)[N+](=O)[O-] | C18H27N3O2
